US06235731B1
2) Synthesis of N-[2-(piperazinyl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of 3.60 g (8.38 mM) of N-[2-(4-tert-butoxycarbonyl-1-piperazinyl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in 100 ml of ethanol was added 3.4 ml (41.90 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for one hour. The resulting crystals were collected by filtration and rinsed with small amounts of ethanol and ether to provide the title compound. Yield 3.36 g (91.4%, orange-colored crystals).

reactant | N-[2-(4-tert-butoxycarbonyl-1-piperazinyl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 8.38 mM, 3.60 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C21H27N5O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[2-(piperazinyl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | Cl.Cl.Cl.N1(CCNCC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C16H19N5OS.3ClH/c22-16(18-6-9-20-7-4-17-5-8-20)13-10-12-11-19-14-2-1-3-15(23-13)21(12)14;;;/h1-3,10-11,17H,4-9H2,(H,18,22);3*1H
